US08236810B2
a) 8-Mercapto-3-methyl-7-(3-methylbut-2-enyl)-1-(2-oxo-2-phenylethyl)-3,7-dihydropurine-2,6-dione
50 mg of 8-bromo-3-methyl-7-(3-methylbut-2-enyl)-1-(2-oxo-2-phenylethyl) -3,7-dihydropurine-2,6-dione were dissolved in 1 ml of dimethylformamide and, after addition of 24 mg of L-cysteine methyl ester hydrochloride and 37 mg of potassium carbonate, the mixture was heated with stirring at 90° C. for 1 hour. After cooling to room temperature, 10 ml of water were added, and the mixture was made weakly acidic with glacial acetic acid. A precipitate separated out on stirring and was filtered off and dried in a vacuum.

reactant | 8-bromo-3-methyl-7-(3-methylbut-2-enyl)-1-(2-oxo-2-phenylethyl) -3,7-dihydropurine-2,6-dione | 50 mg | BrC1=NC=2N(C(N(C(C2N1CC=C(C)C)=O)CC(C1=CC=CC=C1)=O)=O)C | C19H19BrN4O3
reactant | L-cysteine methyl ester hydrochloride | 24 mg | Cl.COC([C@@H](N)CS)=O
reactant | potassium carbonate | 37 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 10 ml | O | H2O
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 8-Mercapto-3-methyl-7-(3-methylbut-2-enyl)-1-(2-oxo-2-phenylethyl)-3,7-dihydropurine-2,6-dione | SC1=NC=2N(C(N(C(C2N1CC=C(C)C)=O)CC(C1=CC=CC=C1)=O)=O)C | C19H20N4O3S
